US04537897
A solution of 4.12 g of dicyclohexylcarbodiimide in 40 ml of methylene chloride was added at 0° C. to a mixture of 3 g of (1R,trans) 2,2-dimethyl-3-(1,2-propadienyl)-cyclopropane-carboxylic acid, 30 ml of methylene chloride, 3.96 g of pentafluorobenzyl alcohol and 100 mg of 4-dimethylaminopyridine and the mixture was stirred at 20° C. for 16 hours and was filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with a 9-1 hexane-ethyl acetate mixture yielded 4.78 g of pentafluorobenzyl (1R,trans) 2,2-dimethyl-3-(1,2-propadienyl)-cyclopropane-carboxylate with a specific rotation of [α]D20 =-23° (c=0.5% in chloroform).

reactant | dicyclohexylcarbodiimide | 4.12 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | (1R,trans) 2,2-dimethyl-3-(1,2-propadienyl)-cyclopropane-carboxylic acid | 3 g | CC1([C@@H]([C@H]1C=C=C)C(=O)O)C | C9H12O2
reactant | pentafluorobenzyl alcohol | 3.96 g | FC1=C(C(=C(C(=C1CO)F)F)F)F | C7H3F5O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | pentafluorobenzyl (1R,trans) 2,2-dimethyl-3-(1,2-propadienyl)-cyclopropane-carboxylate | 4.78 g | CC1([C@@H]([C@H]1C=C=C)C(=O)OCC1=C(C(=C(C(=C1F)F)F)F)F)C | C16H13F5O2
